US09290476B2
Bis(1-methyl-1H-imidazol-5-yl)methanone
To a solution of 5-bromo-1-methyl-1H-imidazole (1.2 g, 7.448 mmol) in DCM (10 mL) was added ethyl magnesium bromide (2.5 mL, 7.448 mmol; 3.0 M in diethyl ether) dropwise over a 10 minute period. The resulting pale yellow solution was stirred at room temperature for 15 minutes, cooled in an ice bath to 0° C. and N-methoxy-N,1-dimethyl-1H-imidazole-5-carboxamide (1.0 g, 6.206 mmol, Intermediate 39: step a) dissolved in DCM (3 mL) was added dropwise. The cold bath was removed and the reaction mixture stirred at room temperature for 48 hours. To the resulting yellow suspension was added water followed by 6 M aqueous HCl to a neutral pH (pH=6-7). The aqueous mixture was extracted with DCM (2×). The combined DCM extracts were dried over MgSO4, filtered and concentrated under reduced pressure. The product was precipitated with Et2O, filtered and dried to provide the title compound as a tan solid.

reactant | 5-bromo-1-methyl-1H-imidazole | 7.448 mmol, 1.2 g | BrC1=CN=CN1C | C4H5BrN2
reactant | ethyl magnesium bromide | 7.448 mmol, 3.0 M, 2.5 mL | C(C)[Mg]Br
reactant | N-methoxy-N,1-dimethyl-1H-imidazole-5-carboxamide | CON(C(=O)C1=CN=CN1C)C | C7H11N3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | Bis(1-methyl-1H-imidazol-5-yl)methanone | CN1C=NC=C1C(=O)C1=CN=CN1C | C9H10N4O
